US09102692B2
Concentrated hydrochloric acid (0.7 ml) was added to a mixture of the crude N-benzhydrylidene-N′-(7-fluoro-2-methyl-1H-benzimidazol-5-yl)-hydrazine (325 mg) and ethanol (0.7 ml). This was stirred at 59 to 64° C. for one hour, and the reaction mixture was cooled to room temperature. Then, the precipitated solid was collected by filtration and dried. Thus, 7-fluoro-2-methyl-1H-benzimidazol-5-yl-hydrazine dihydrochloride (90 mg, 80%) was obtained.

reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N-benzhydrylidene-N′-(7-fluoro-2-methyl-1H-benzimidazol-5-yl)-hydrazine | 325 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC2=C(NC(=N2)C)C(=C1)F | C21H17FN4
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
product | 7-fluoro-2-methyl-1H-benzimidazol-5-yl-hydrazine dihydrochloride | 90 mg, 80% | Cl.Cl.FC1=CC(=CC2=C1NC(=N2)C)NN | InChI=1S/C8H9FN4.2ClH/c1-4-11-7-3-5(13-10)2-6(9)8(7)12-4;;/h2-3,13H,10H2,1H3,(H,11,12);2*1H
